US03957986
To 17.4 g (0.06 mole) of xanthene-2,7-dicarboxylic acid was added 100 ml (1.4 moles) of thionyl chloride and 4 drops of pyridine. The resulting solution was refluxed for four hours and solvent and excess thionyl chloride were removed. The intermediate diacid chloride in benzene-methylene chloride was reacted with 24 g (0.13 mole) of 3-di-n-butylamino-1-propanol by refluxing for three hours. Most of the solvent was removed and the residue allowed to stand for two days. The residue was diluted with methylene chloride and 10% hydrochloric acid. The organic layer and two methylene chloride washings of the aqueous layer were combined and dried over anhydrous magnesium sulfate. The solution was filtered and concentrated at reduced pressure to a solid residue. This was purified from isopropanol to give 12.9 g (29.6%) of bis(3-di-n-butylaminopropyl)xanthene-2,7-dicarboxylate dihydrochloride. M.P. 187.5°-190°C.

reactant | xanthene-2,7-dicarboxylic acid | 0.06 mole, 17.4 g | C1=C(C=CC=2OC3=CC=C(C=C3CC12)C(=O)O)C(=O)O | C15H10O5
reactant | thionyl chloride | 1.4 moles, 100 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-di-n-butylamino-1-propanol | 0.13 mole, 24 g | C(CCC)N(CCCO)CCCC | C11H25NO
catalyst | pyridine | 4 drops | N1=CC=CC=C1 | C5H5N
solvent | benzene methylene chloride | C1=CC=CC=C1.C(Cl)Cl
product | bis(3-di-n-butylaminopropyl)xanthene-2,7-dicarboxylate dihydrochloride | 12.9 g, 29.6% | Cl.Cl.C(CCC)N(CCCOC(=O)C1=CC=2CC3=CC(=CC=C3OC2C=C1)C(=O)OCCCN(CCCC)CCCC)CCCC | InChI=1S/C37H56N2O5.2ClH/c1-5-9-19-38(20-10-6-2)23-13-25-42-36(40)30-15-17-34-32(27-30)29-33-28-31(16-18-35(33)44-34)37(41)43-26-14-24-39(21-11-7-3)22-12-8-4;;/h15-18,27-28H,5-14,19-26,29H2,1-4H3;2*1H
